US09278910B2
4-((N-(2-(tert-butoxy)-2-oxoethyl)-5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinamido)methyl)phenyl 4-(heptyloxy)benzoate (INT-16)
Prepared using General Procedure 6: To a stirred solution of 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinic acid INT-15 (20 mg, 0.05 mmol) in DMF (1 mL) was added HATU (22.5 mg, 0.06 mmol). After stirring for 1 h at room temperature, 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)phenyl 4-(heptyloxy)benzoate INT-13 (30.8 mg, 0.06 mmol) was added followed by triethylamine (11.4 mg, 0.11 mmol). The reaction mixture was allowed to stir at room temperature overnight. The final product was isolated by HPLC purification to give 4-((N-(2-(tert-butoxy)-2-oxoethyl)-5-(2-(4-methoxy-2(trifluoromethyl)phenyl)acetamido)picolinamido)methyl)phenyl 4-(heptyloxy)benzoate INT-16. LCMS-ESI (m/z) calculated for C43H48F3N3O8: 792; no m/z observed, tR=4.11 min (Method 7).

reactant | 5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinic acid | COC1=CC(=C(C=C1)CC(=O)NC=1C=CC(=NC1)C(=O)O)C(F)(F)F | C16H13F3N2O4
reactant | HATU | 0.06 mmol, 22.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CNCC(=O)OC(C)(C)C)C=C1 | C27H37NO5
reactant | triethylamine | 0.11 mmol, 11.4 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-5-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)picolinamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=NC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C43H48F3N3O8
